US09399637B2
Step 3) tert-butyl 9-amino-3-azaspiro[5.5]undecane-3-carboxylate
To a solution of tert-butyl 9-oxo-3-azaspiro[5.5]undecane-3-carboxylate (5.35 g, 20.0 mmol) in EtOH (40 mL) were added a solution of NH3 in MeOH (7M, 40 mL, 280.0 mmol) and Ti(Oi-Pr)4 (11.30 g, 40.0 mmol), the mixture was stirred at room temperature overnight. And then NaBH4 (1.51 g, 40.0 mmol) was added portionwise. After addition, the resulting mixture was stirred at room temperature for another 5 h, then quenched with water (40 mL), stirred for 1 h and filtered. The filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/25) to give the product as a light yellow solid (1.20 g, 22.4%).

reactant | tert-butyl 9-oxo-3-azaspiro[5.5]undecane-3-carboxylate | 20.0 mmol, 5.35 g | O=C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C15H25NO3
reactant | NH3 | N | H3N
reactant | MeOH | 280.0 mmol, 7M, 40 mL | CO | CH4O
reactant | NaBH4 | 40.0 mmol, 1.51 g | [BH4-].[Na+]
solvent | EtOH | 40 mL | CCO | C2H6O
product | tert-butyl 9-amino-3-azaspiro[5.5]undecane-3-carboxylate | 1.20 g, 22.4% | NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C15H28N2O2
